US06096758
5. 8{2-[(2-Pyridinylmethoxy)carbonylamino]-6-methylbenzylamino}-2,3-dimethylimidazo[1,2-a]pyridine
A suspension of 8-amino-2,3-dimethylimidazo[1,2-a]-pyridine (0.58 g), 2-pyridinylmethyl (2-chloromethyl-3-methylphenyl)carbamate (1.04 g), sodium carbonate (0.95 g) and sodium iodide (0.2 g) in acetone (25 ml) is stirred at RT for 16 h. The precipitate is filtered off and washed with acetone, and the filtrate is concentrated on a rotary evaporator. The residue is taken up in sodium hydrogencarbonate solution (40 ml) and extracted with dichloromethane (3×40 ml). The combined organic extracts are washed with water (70 ml), dried over sodium sulfate and concentrated. The residue is purified by chromatography on silica gel (eluent: ethyl acetate). After concentration of the main fraction and crystallization from acetone, 0.4 g (27%) of the title compound of m.p. 163-165° C. is obtained.

reactant | 8-amino-2,3-dimethylimidazo[1,2-a]-pyridine | 0.58 g | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
reactant | 2-pyridinylmethyl (2-chloromethyl-3-methylphenyl)carbamate | 1.04 g | ClCC1=C(C=CC=C1C)NC(OCC1=NC=CC=C1)=O | C15H15ClN2O2
reactant | sodium carbonate | 0.95 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.2 g | [I-].[Na+]
solvent | acetone | 25 ml | CC(=O)C | C3H6O
product | 8{2-[(2-Pyridinylmethoxy)carbonylamino]-6-methylbenzylamino}-2,3-dimethylimidazo[1,2-a]pyridine | N1=C(C=CC=C1)COC(=O)NC1=C(CNC=2C=3N(C=CC2)C(=C(N3)C)C)C(=CC=C1)C | C24H25N5O2
